US08895547B2
N-(2,4-Dimethoxybenzyl)-C-[4-(2-morpholin-4-ylethyl)phenyl]methanesulfonamide
To a solution of N-(2,4-dimethoxybenzyl)-C-[4-(2-morpholin-4-yl-2-oxoethyl)phenyl]methanesulfonamide (313 mg) in THF (10 ml) was added, at 0° C., lithium aluminum hydride (66 mg) in portions, and the mixture was stirred at room temperature for 1 h. Then water (0.4 ml), 6 M NaOH (0.3 ml) and water again (1.2 ml) were added successively. The solids were filtered off and dichloromethane was added to the filtrate. The organic phase was removed, dried over magnesium sulfate and concentrated. The crude product was purified by means of preparative HPLC. This gave the product (57 mg) with a molecular weight of 434.6 g/mol (C22H30N2O5S).

reactant | N-(2,4-dimethoxybenzyl)-C-[4-(2-morpholin-4-yl-2-oxoethyl)phenyl]methanesulfonamide | 313 mg | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)CC(=O)N2CCOCC2)C=CC(=C1)OC | C22H28N2O6S
reactant | lithium aluminum hydride | 66 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.4 ml | O | H2O
reactant | NaOH | 6 M, 0.3 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(2,4-Dimethoxybenzyl)-C-[4-(2-morpholin-4-ylethyl)phenyl]methanesulfonamide | 57 mg | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)CCN2CCOCC2)C=CC(=C1)OC | C22H30N2O5S
